US04933053
Preparation of N-allylcarbazole
83.6 g (0.5 mol) of carbazole are dissolved in 250 ml of dry DMF. This solution is added dropwise at 0° C. to a suspension of 12.0 g (0.4 mol) of sodium hydride in 500 ml of DMF. An 80% oil suspension of NaH is used. After stirring for a further 2 hours at 0° C., 38 ml (0.45 mol) of allyl bromide are added dropwise. After the end of the addition, the mixture is warmed to room temperature within one hour, with stirring. To decompose residual NaH, 100 ml of methanol are also added. The solvent mixture is then removed in vacuo in a rotary evaporator and the residue is extracted with 400 ml of petroleum ether (40°-60° C.). Finally, the petroleum ether extract is filtered and evaporated in a rotary evaporator. The remaining brownish oil is distilled in a high vacuum. This gives 65.1 g of a pale yellow, microcrystalline solid. Melting point: 52°-54° C., boiling point: 112° C./13 Pa. Yield 78.5% of theory.

reactant | carbazole | 0.5 mol, 83.6 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 0.4 mol, 12.0 g | [H-].[Na+]
reactant | allyl bromide | 0.45 mol, 38 ml | C(C=C)Br | C3H5Br
reactant | methanol | 100 ml | CO | CH4O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | N-allylcarbazole | Yield 78.5% | C(C=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H13N
